US09343683B2
Synthesis of N,N,N′,N′-tetrakis(3-methylphenyl)-2′,7′-diphenyl-9,9′-spirobifluorene-2,7-diamine (HTM3)
134.5 g (190 mmol) of N,N,N′,N′-tetrakis(3-methylphenyl)-2′,7′-dibromo-9,9′-spirobifluorene-2,7-diamine, 50.4 g (420 mmol) of benzene-boronic acid and potassium phosphate (195.5 g, 0.92 mol) are initially introduced into a 4 l flask, and 1200 ml of toluene, 1200 ml of water and 475 ml of dioxane are then added. The mixture is degassed for 30 minutes by passing-through of argon with stirring. The tris-o-tolylphosphine (4.0 g, 13.2 mmol) is then added, and the mixture is stirred briefly. Palladium(II) acetate (480 mg, 2.1 mmol) is subsequently added. Finally, the mixture is heated under reflux for 12 hours. A further 10 g of boronic acid ester are added, and the mixture is heated under reflux for a further 10 h. The mixture is then allowed to cool. Glacial acetic acid/ethanol 1:1 (1500 ml) is subsequently added. The precipitated solid is filtered off with suction, rinsed 2× with about 250 ml of toluene, 2× with about 450 ml of water/ethanol mixture (ratio 1:1) and finally 2× with 550 ml of ethanol. The solid is extracted with 2 l of toluene in a hot extractor for 5 days and subsequently recrystallised 4× from degassed dioxane. The product is sublimed at 5× 10−6 mbar and about 330° C.

reactant | N,N,N′,N′-tetrakis(3-methylphenyl)-2′,7′-dibromo-9,9′-spirobifluorene-2,7-diamine | 190 mmol, 134.5 g | CC=1C=C(C=CC1)N(C1=CC=2C3(C4=CC(=CC=C4C2C=C1)N(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)C1=CC(=CC=C1C=1C=CC(=CC13)Br)Br)C1=CC(=CC=C1)C | C53H40Br2N2
reactant | benzene-boronic acid | 420 mmol, 50.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 0.92 mol, 195.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tris-o-tolylphosphine | 13.2 mmol, 4.0 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | Palladium(II) acetate | 2.1 mmol, 480 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetic acid ethanol | 1500 ml | C(C)(=O)O.C(C)O
solvent | dioxane | 475 ml | O1CCOCC1 | C4H8O2
solvent | water | 1200 ml | O | H2O
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | N,N,N′,N′-tetrakis(3-methylphenyl)-2′,7′-diphenyl-9,9′-spirobifluorene-2,7-diamine | CC=1C=C(C=CC1)N(C1=CC=2C3(C4=CC(=CC=C4C2C=C1)N(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)C1=CC(=CC=C1C=1C=CC(=CC13)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C | C65H50N2
